US04618677
The procedure described in Example 1(b) was followed, using 6.1 g of thiourea, 13.8 g of 1-(4-chlorobenzyl)-4-(2-chloroethyl)piperazine dihydrochloride, 4.1 g of triethylamine and 150 ml of reagent ethanol. The hydrolysis was effected with 7.0 g of sodium hydroxide and 50 ml of water. Work-up, as described above, gave 6.7 g (62% of theory) of 2-[4-(4-chlorobenzyl)piperazin-1-yl]ethanethiol dihydrochloride as a white crystalline solid, M.p. 244°-247° C.

reactant | thiourea | 6.1 g | NC(=S)N | CH4N2S
reactant | 1-(4-chlorobenzyl)-4-(2-chloroethyl)piperazine dihydrochloride | 13.8 g | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCCl)C=C1
reactant | triethylamine | 4.1 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 7.0 g | [OH-].[Na+]
solvent | water | 50 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
product | 2-[4-(4-chlorobenzyl)piperazin-1-yl]ethanethiol dihydrochloride | 6.7 g, 62% | Cl.Cl.ClC1=CC=C(CN2CCN(CC2)CCS)C=C1 | InChI=1S/C13H19ClN2S.2ClH/c14-13-3-1-12(2-4-13)11-16-7-5-15(6-8-16)9-10-17;;/h1-4,17H,5-11H2;2*1H
